Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Non-functioning PICC line

 
Major Surgical or Invasive Procedure:
___ line exchange
 
History of Present Illness:
___ y.o. male with HCV s/p OLT ___ s/p splenectomy  and distal 
pancreatectomy ___ secondary to ITP. Long postop course 
complicated by gram negative bacteremia and multiple abd dluid 
collections not amenable to drainage. Had persistent fever 
without identifiable source. D/c'd home on ___ on an indefinate 
course of vancomycin. Now returns with clotted PICC line. 
 
Past Medical History:
# ESLD ___ HCV cirrhosis, s/p OLT on ___  
- c/b biliary strictures w/ Roux en-Y hepaticogjejunostomy 
___  
# h/o polysubstance abuse  
# h/o L ureteral obstruction s/p stent placement ___  
- new stent placed ___ for L hydronephrosis  
# anal fissures/fistulae s/p repair ___  
# hypertension  
# SVT  
# esophagitis  
# cognitive disorder  
# adjustment disorder  
Portal vein thrombus
Splenomegaly
ITP
gram negative bacteremia ___
L hydronephrosis ___ splenomegaly with stent placement
.  
PSH: (per initial H&P)  
# OLT ___ c/b biliary strictures w/ Roux en-Y 
hepaticojejunostomy
# incision hernia repair ___  
# s/p hemorrhoid repair  
# anal fistulectomy in ___ + ___, ___ placement 
___  
# appendectomy  
# cholecystectomy  
# splenectomy with distal pancreatectomy ___
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
98.9  71  95/55  14  100%RA
nad, a&o x3
non-jaundiced
CTA B
Irreg rate  
Soft, distended, incision C/D/I, + fluid wave
1+ edema
MAE

 
Pertinent Results:
___ 12:40PM   ___ PTT-40.2* ___
___ 12:40PM   WBC-12.0* RBC-3.96* HGB-10.6* HCT-35.2* 
MCV-89 MCH-26.8* MCHC-30.1* RDW-15.5
___ 02:08PM   POTASSIUM-4.6
___ 12:40PM   GLUCOSE-107* UREA N-28* CREAT-1.3* SODIUM-135 
POTASSIUM-6.0* CHLORIDE-101 TOTAL CO2-29 ANION GAP-11

___ 05:00AM BLOOD WBC-10.8 RBC-3.35* Hgb-8.8* Hct-29.8* 
MCV-89 MCH-26.3* MCHC-29.7* RDW-15.9* Plt Ct-77*
___ 05:00AM BLOOD Glucose-77 UreaN-29* Creat-1.2 Na-135 
K-4.1 Cl-102 HCO3-28 AnGap-9
___ 05:00AM BLOOD ALT-17 AST-57* AlkPhos-545* TotBili-0.5
___ 05:00AM BLOOD Vanco-18.6
 
Brief Hospital Course:
He was initially seen in the ED. BP was 86/61 with a HR of 69. 
EKG showed a flutter. Hyperkalemia was treated and IVF was 
given. Cardiology was called. Home doses of Atenolol and 
Diltiazem were continued. No other intervention was done as the 
a flutter was well tolerated and well rate controlled. F/u with 
his cardiologist in 1 month was recommended. If a flutter were 
to persist, cardioversion would be considered. Given known 
recent + blood cultures of E.coli, repeat blood cultures were 
done. Vancomycin IV, po flagyl and po cipro were continued. TPA 
was given via the ___ line with positive results. A CXR 
confirmed placement. Blood cultures remained negative to date at 
time of discharge. The JP drain continued to drain ~ 45cc of 
dark brown fluid. 

He was continued on coumadin with a lovenox bridge. INR was 1.6. 
Coumadin was increased to 2mg once daily. Labs were to be drawn 
on ___ and ___. 

Of note, a UA and UCX were done on ___ to f/u the admission ua 
which had >50 ___ wbc and many bacteria. The ua on ___ 
showed ___ wbc, >50 RBC, many bacteria, negative nitrites and 
___ epi. Urology was called to see if the ureteral stent needed 
to be changed or removed. Per Urology note, there was "no need 
to change the stent urgently. The UA could represent 
contamination vs
levaquin resistant bacterial colonization or infection. Given
normal WBC and lack of fever, would favor colonization, however,
due to immunosupressed state, would recommend continued
antibiotics until new culture data is back with F/U with Dr. 
___ in ___ weeks".

Vital signs were stable, he was ambulatory and tolerating a 
regular diet at time of discharge. 

 
Medications on Admission:
lamivudine 100mg qd, latanoprost 0.005% ___, levofloxacin 
500mg qd, risedronate 35mg qwk, vancomycin 1 gram qd via picc, 
senna 1 tab bid, caltrate +D qd, humalog sliding scale qid, 
methadone 75mg qd, atenolol 50mg qd, catria XT 180 mg qd, lasix 
40mg qam, lasix 20mg qpm, omeprazole 40mg bid, androgel 1% tp 
bid, prednisone 3mg qd,flagyl 500mg tid, colace 100mg bid, 
trazodone 100mg prn HS, sertraline 50mg qd, oxycodone ___ tabs 
prn q 4 hours, coumadin 1mg qd, neurontin 100mg q8hours, prograf 
1.5mg bid 
 
Discharge Medications:
1. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
3. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Prednisone 1 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
6. Methadone 10 mg Tablet Sig: 7.5 Tablets PO DAILY (Daily).  
7. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
8. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
9. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
10. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
11. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
12. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO DAILY (Daily): ___ take as Tums.  
13. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
14. Trazodone 50 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime) as needed.  
15. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.  
16. Vancomycin in Dextrose 1 gram/200 mL Piggyback Sig: One (1)  
Intravenous Q 24H (Every 24 Hours).  
17. Enoxaparin 80 mg/0.8 mL Syringe Sig: One (1) syringe 
Subcutaneous BID (2 times a day): Inject 0.7 ml for dose of 70 
mg
Until INR therapeutic.
Disp:*10 syringes* Refills:*2*
18. Coumadin 1 mg Tablet Sig: Two (2) Tablet PO once a day.
Disp:*60 Tablet(s)* Refills:*2*
19. Outpatient Lab Work
Please draw on ___
CBC, ___, Chem 10, AST, ALT, T Bili, Alk Phos, Albumin, 
Trough Prograf Level, Vanco Level
20. PICC line care
PICC Line care per agency protocol
Resume home care
21. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
22. Lasix 20 mg Tablet Sig: One (1) Tablet PO prn: qd for edema 
if needed.  
23. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours).  
24. Risedronate 35 mg Tablet Sig: One (1) Tablet PO once a week. 
 
25. Latanoprost 0.005 % Drops Sig: One (1) drop Ophthalmic at 
bedtime: both eyes.  
26. Methadone
Has been on Methadone 75mg qd. 
Last dose ___ at 8am

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Atrial flutter
Portal Vein thrombus
s/p splenectomy
s/p liver transplant
clotted Picc line
+UA

 
Discharge Condition:
Good

 
Discharge Instructions:
Please call the tansplant office for fever > 101, chills, 
nausea, vomiting, diarrhea, inability to take or keep down 
medications
Drain and record JP bulb output twice daily or more often as 
necessary. Write down output and bring record with you to 
clinic.
Continue Lovenox injections until told otherwise
Coumadin as directed by the transplant clinic
Labwork ___, all transplant labs and ___
Follow up with Dr ___ in ___ weeks
 
Followup Instructions:
___